US05175178
To a solution of 4.7 g 3,5-dimethyl-4-(3-ethynylpropoxy)benzoic acid in 100 ml dry tetrahydrofuran was added 3.7 g carbonyldiimidazole and the mixture was stirred 2 hrs. at room temperature. To the latter was added 10 ml concentrated ammonium hydroxide, and the mixture was stirred for 30 min., poured onto water and extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated to give 4.7 g 3,5-dimethyl-4-(3-ethynylpropoxy)benzamide, m.p. 81°-84° C.

reactant | 3,5-dimethyl-4-(3-ethynylpropoxy)benzoic acid | 4.7 g | CC=1C=C(C(=O)O)C=C(C1OCCCC#C)C | C14H16O3
reactant | carbonyldiimidazole | 3.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3,5-dimethyl-4-(3-ethynylpropoxy)benzamide | 4.7 g | CC=1C=C(C(=O)N)C=C(C1OCCCC#C)C | C14H17NO2
